US05318966
A solution of 1.00 g (0.005 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole in 60 ml of ethyl methyl ketone was treated with 0.86 g (0.006 mol) of potassium carbonate, 0.29 g (0.002 mol) of sodium iodide and 1.40 g (0.005 mol) of N-(4-bromobutyl)phthalimide. The mixture was boiled under reflux for 24 hours and, after cooling, treated with water. The mixture was extracted with ethyl acetate, the extracts were dried with sodium sulphate and the solvent was distilled off in a vacuum. Chromatography over silica gel with methylene chloride/methanol 20:1 gave 2.10 g (quant.) of crude rac-cis-N-[4-(1,2,3a,4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)butyl]phthalimide as pale yellow crystals. A small sample was recrystallized from ethyl acetate/ether and then exhibited a m.p. of 103°-105°.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.005 mol, 1.00 g | COC1=CC=CC=2[C@H]3CCN[C@H]3CCC21 | C13H17NO
reactant | potassium carbonate | 0.006 mol, 0.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.002 mol, 0.29 g | [I-].[Na+]
reactant | N-(4-bromobutyl)phthalimide | 0.005 mol, 1.40 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
solvent | ethyl methyl ketone | 60 ml | CC(=O)CC | C4H8O
solvent | water | O | H2O
product | rac-cis-N-[4-(1,2,3a,4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)butyl]phthalimide | 2.10 g | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(C=1C(C2=O)=CC=CC1)=O | C25H28N2O3
